US04212867
265 g of ethoxalyl chloride are added, in the course of one hour, to 316 g of 3,5-dimethylbenzhydrazide and 195 g of triethylamine in 1.58 liters of anhydrous dioxane, whilst keeping the temperature of the reaction medium at about 10°-12° C. The stirring is continued (sic) for about two hours. whilst allowing the temperature to return to the ambient value. The reaction mixture is then poured into seven liters of water, whilst stirring. The precipitate which has formed is filtered off, washed three times with one liter of water and then dried at 20° C. under a pressure of one millimeter of mercury. 357 g of 1-ethoxalyl-2-(3,5-dimethylbenzoyl)-hydrazine, which melts at 159° C., are obtained.

reactant | ethoxalyl chloride | 265 g | C(=O)(C(=O)OCC)Cl | C4H5ClO3
reactant | 3,5-dimethylbenzhydrazide | 316 g | CC=1C=C(C(=O)NN)C=C(C1)C | C9H12N2O
reactant | triethylamine | 195 g | C(C)N(CC)CC | C6H15N
reactant | water | seven liters | O | H2O
solvent | dioxane | 1.58 liters | O1CCOCC1 | C4H8O2
product | 1-ethoxalyl-2-(3,5-dimethylbenzoyl)-hydrazine | 357 g | C(=O)(C(=O)OCC)NNC(C1=CC(=CC(=C1)C)C)=O | C13H16N2O4
